US04281141
4-chloro-2,2-diphenyl-4-pentenenitrile
A 40.3 g. portion of sodium amide was suspended in 400 ml. of dry toluene at 70° C. and 199.6 g. of diphenylacetonitrile, dissolved in 600 ml. of hot dry toluene, was added dropwise. The mixture was stirred at 70°-100° C. for 4 hours, and an additional 500 ml. of dry toluene and 100 ml. of dimethylformamide were added. The mixture was stirred for 27 hours more. The slurry was cooled to 10° C., and 114.6 g. of 2,3-dichloropropene was added. The mixture was warmed to ambient temperature and stirred for 40 hours, and was then stirred at 90°-100° C. for one hour. The mixture was then cooled to ambient temperature, diluted with a large amount of diethyl ether, washed with water and dried over magnesium sulfate. The solution was evaporated to give 265 g. of crude liquid product.

reactant | sodium amide | [NH2-].[Na+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | diphenylacetonitrile | C1(=CC=CC=C1)C(C#N)C1=CC=CC=C1 | C14H11N
reactant | 2,3-dichloropropene | ClC(=C)CCl | C3H4Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-chloro-2,2-diphenyl-4-pentenenitrile | ClC(CC(C#N)(C1=CC=CC=C1)C1=CC=CC=C1)=C | C17H14ClN
